* source NE560_PLL
I_I6         N05191 0 DC 500u  
Q_Q10         N05269 +PD_OUT N05151 BC107BP/ZTX 
I_I2         N04458 0 DC 500u  
C_C1         N04462 N04458  200p  TC=0,0 
Q_Q5         VCC N04490 +VCO_OUT BC107BP/ZTX 
I_I3         +VCO_OUT 0 DC 500u  
I_I5         N04462 0 DC 0Adc AC 0Aac
+PULSE 0 2m 0 0.1n 0.1n 1n 10s
R_R3         N05139 N05191  325 TC=0,0 
R_R4         N05191 N05151  325 TC=0,0 
D_D1         N04520 +13V D1N4735 
Q_Q1         N04520 N04520 N04490 BC107BP/ZTX 
Q_Q3         N04490 -VCO_OUT N04458 BC107BP/ZTX 
Q_Q11         VCC N05269 OUTPUT BC107BP/ZTX 
Q_Q9         N05269 +PD_OUT N05151 BC107BP/ZTX 
R_R1         N04486 N04520  2k TC=0,0 
I_I4         -VCO_OUT 0 DC 500u  
R_R5         VCC N05269  8k TC=0,0 
V_Vcc         VCC 0 16
Q_Q6         VCC N04486 -VCO_OUT BC107BP/ZTX 
Q_Q8         N04462 -PD_OUT N05139 BC107BP/ZTX 
R_R6         OUTPUT 0  50k TC=0,0 
R_R2         N04490 N04520  2k TC=0,0 
V_V1         +13V 0 13
I_I1         N04462 0 DC 500u  
Q_Q2         N04520 N04520 N04486 BC107BP/ZTX 
Q_Q7         N04458 -PD_OUT N05139 BC107BP/ZTX 
Q_Q4         N04486 +VCO_OUT N04462 BC107BP/ZTX 
V_V3         3.69V 0 3.69
R_R14         0 -PD_OUT  8.2k TC=0,0 
Q_Q17         N16430 +VCO_OUT N16366 BC107BP/ZTX 
Q_Q13         N16366 -INPUT N16354 BC107BP/ZTX 
R_R13         0 +PD_OUT  8.2k TC=0,0 
Q_Q12         N16378 +INPUT N16354 BC107BP/ZTX 
Q_Q16         N15816 -VCO_OUT N16366 BC107BP/ZTX 
R_R11         -PD_OUT N27494  1.25k TC=0,0 
R_R9         N15816 +13V  6k TC=0,0 
D_D2         N20583 N16426 D1N4735 
Q_Q19         VCC N16430 N16426 BC107BP/ZTX 
Q_Q15         N16430 -VCO_OUT N16378 BC107BP/ZTX 
V_V4         +INPUT -INPUT  AC 0
+SIN 0 50m 1.2meg 0 0 0
I_I7         N16354 0 DC 0.77m  
R_R8         3.69V -INPUT  2k TC=0,0 
R_R12         +PD_OUT N20583  1.25k TC=0,0 
D_D3         N27494 N27401 D1N4735 
Q_Q18         VCC N15816 N27401 BC107BP/ZTX 
R_R10         N16430 +13V  6k TC=0,0 
R_R7         3.69V +INPUT  2k TC=0,0 
Q_Q14         N15816 +VCO_OUT N16378 BC107BP/ZTX 
C_C3         +PD_OUT N28552  10n  TC=0,0 
R_R15         N28572 0  100 TC=0,0 
R_R16         N28552 0  100 TC=0,0 
C_C2         -PD_OUT N28572  10n  TC=0,0 
